US04416884
4.4 g of 8,10-dichloro-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid and 4.5 g of piperazine were added to 10 ml of anhydrous dimethyl sulfoxide and the mixture was heated on an oil bath at 160° to 170° C. for 7 hours while stirring. Treatment of the reaction mixture in an analogous manner as in Example 4 gave 0.9 g of 8-(1-piperazinyl)-10-chloro-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride as white amorphous crystals having a melting point of 300° C. or more.

reactant | 8,10-dichloro-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 4.4 g | ClC1=CC(=C2C(C(=CN3CCCC1=C23)C(=O)O)=O)Cl | C13H9Cl2NO3
reactant | piperazine | 4.5 g | N1CCNCC1 | C4H10N2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 8-(1-piperazinyl)-10-chloro-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride | 0.9 g | Cl.N1(CCNCC1)C1=CC(=C2C(C(=CN3CCCC1=C23)C(=O)O)=O)Cl | InChI=1S/C17H18ClN3O3.ClH/c18-12-8-13(20-6-3-19-4-7-20)10-2-1-5-21-9-11(17(23)24)16(22)14(12)15(10)21;/h8-9,19H,1-7H2,(H,23,24);1H
